US05707991
A The reaction is carried out in a way analogous to that described in Example 3, but from 4.2 g of tert-butyl (2RS,4SR,5SR)-1-{2-[3-(3-(ethoxycarbonyl)phenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(isobutylcarbamoyl)pyrrolidine-2-carboxylate in a mixture of 6.8 cm3 of a normal aqueous potassium hydroxide solution, 30 cm3 of distilled water and 140 cm3 of methanol. After treatment, there is obtained 0.65 g of (2RS,4SR,5SR)-3-{3-[2-(2-tert-butoxycarbonyl-5-(2-fluorophenyl)-4-isobutylcarbamoyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid, melting at 160° C.

reactant | tert-butyl (2RS,4SR,5SR)-1-{2-[3-(3-(ethoxycarbonyl)phenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(isobutylcarbamoyl)pyrrolidine-2-carboxylate | 4.2 g | C(C)OC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(CC(C1C1=C(C=CC=C1)F)C(NCC(C)C)=O)C(=O)OC(C)(C)C)=O | C32H41FN4O7
reactant | water | 30 cm3 | O | H2O
reactant | methanol | 140 cm3 | CO | CH4O
solvent | potassium hydroxide | 6.8 cm3 | [OH-].[K+]
product | (2RS,4SR,5SR)-3-{3-[2-(2-tert-butoxycarbonyl-5-(2-fluorophenyl)-4-isobutylcarbamoyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid | 0.65 g | C(C)(C)(C)OC(=O)C1N(C(C(C1)C(NCC(C)C)=O)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C30H37FN4O7
